### PR TITLE
The type of indistinguishable processes

### PR DESCRIPTION
**Pull request by EtienneC30**
Define the equivalence classes of strongly adapted processes, mimicking the type `AEEqFun` in mathlib. Use this to fix the sorries in the type of square integrable martingales. Also define `AEStronglyAdapted` processes, i.e. processes that are indistinguishable from a strongly adapted process.

### CODE REVIEW

File: BrownianMotion/Auxiliary/Indistinguishable.lean [hunk 1]
```diff
@@ -51,27 +51,41 @@ protected lemma fun_comp₂ {F G : Type*} {Z T : ι → Ω → F} (h1 : X ≡ᵐ
...
+protected lemma prodMk {F : Type*} {Z T : ι → Ω → F} (h1 : X ≡ᵐ[P] Y) (h2 : Z ≡ᵐ[P] T) :
+    (fun t ω ↦ (X t ω, Z t ω)) ≡ᵐ[P] (fun t ω ↦ (Y t ω, T t ω)) :=
+  h1.fun_comp₂ h2 _
+
+protected lemma ae_eq (h : X ≡ᵐ[P] Y) : (fun ω t ↦ X t ω) =ᵐ[P] (fun ω t ↦ Y t ω) := by
+  filter_upwards [h] with ω h
+  ext
+  rw [h]
+
+protected lemma _root_.Filter.EventuallyEq.indist (h : (fun ω t ↦ X t ω) =ᵐ[P] (fun ω t ↦ Y t ω)) :
```
Comment (EtienneC30) [inline BrownianMotion/Auxiliary/Indistinguishable.lean]:
```suggestion
lemma _root_.Filter.EventuallyEq.indist (h : (fun ω t ↦ X t ω) =ᵐ[P] (fun ω t ↦ Y t ω)) :
```

File: BrownianMotion/Auxiliary/AEEq.lean [hunk 2]
```diff
@@ -0,0 +1,606 @@
...
+  simp only [cast]
+  split_ifs with h
+  · exact stronglyAdapted_const 𝓕 _
+  · apply AEStronglyAdapted.stronglyAdapted_mk
+
+protected theorem aestronglyAdapted (f : α →ₚ[μ, 𝓕] β) : AEStronglyAdapted f 𝓕 μ :=
+  f.stronglyAdapted.aestronglyAdapted
+
+protected theorem measurable [PseudoMetrizableSpace β] [MeasurableSpace β] [BorelSpace β]
+    (f : α →ₚ[μ, 𝓕] β) : Adapted 𝓕 f :=
```
Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/AEEq.lean]:
```suggestion
protected theorem adapted [PseudoMetrizableSpace β] [MeasurableSpace β] [BorelSpace β]
    (f : α →ₚ[μ, 𝓕] β) : Adapted 𝓕 f :=
```

**Review by RemyDegenne — APPROVED** [review]
